US09340554B2
Synthesis of 4-chloro-6-cyclopropylthieno[2,3-d]pyrimidine
A 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen was charged with commercially available 6-bromo-4-chlorothieno[2,3-d]pyrimidine (1.5 g, 6.01 mmol, 1.00 equiv), cyclopropylboronic acid (1.2 g, 13.97 mmol, 2.30 equiv), sodium carbonate (2.16 g, 20.38 mmol, 3.40 equiv), PPh3 (552 mg, 2.10 mmol, 0.35 equiv), Pd(OAc)2 (162 mg, 0.72 mmol, 0.12 equiv), water (7.5 mL) and methylbenzene (22.5 mL). The resulting solution was stirred overnight at 110° C. in an oil bath. The resulting solution was diluted with 50 mL of water. The resulting solution was extracted with 3×100 mL of dichloromethane and the organic layers combined. The resulting mixture was washed with 3×200 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:15-1:5). This resulted in 400 mg (32%) of 4-chloro-6-cyclopropylthieno[2,3-d]pyrimidine as a yellow solid.

reactant | 6-bromo-4-chlorothieno[2,3-d]pyrimidine | 6.01 mmol, 1.5 g, 1.00 equiv | BrC1=CC2=C(N=CN=C2Cl)S1 | C6H2BrClN2S
reactant | cyclopropylboronic acid | 13.97 mmol, 1.2 g, 2.30 equiv | C1(CC1)B(O)O | C3H7BO2
reactant | sodium carbonate | 20.38 mmol, 2.16 g, 3.40 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | PPh3 | 2.10 mmol, 552 mg, 0.35 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | water | 50 mL | O | H2O
catalyst | Pd(OAc)2 | 0.72 mmol, 162 mg, 0.12 equiv | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 7.5 mL | O | H2O
solvent | methylbenzene | 22.5 mL | CC1=CC=CC=C1 | C7H8
product | 4-chloro-6-cyclopropylthieno[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)SC(=C2)C2CC2 | C9H7ClN2S
